US08912188B2
To a solution of (S)-methyl 3-(2-methyl-4-(pyridin-2-yl)piperazin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (800 mg, 2.11 mmol) in dichloromethane (20 ml) under an inert atmosphere of nitrogen, was added TEA (958 mg, 9.47 mmol) followed by addition of Tf2O (1.19 g, 4.22 mmol) dropwise at −60° C. After stirring 5 min at this temperature, the reaction was quenched by the addition of water (100 ml), extracted with dichloromethane (2×30 ml), dried over anhydrous magnesium sulfate and concentrated under vacuum to give a residue, which was purified via silica gel chromatography (2% ethyl acetate in petroleum ether) to afford (S)-methyl 3-(2-methyl-4-(pyridin-2-yl)piperazin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate as red oil (0.9 g, 83.4%).

reactant | (S)-methyl 3-(2-methyl-4-(pyridin-2-yl)piperazin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 2.11 mmol, 800 mg | C[C@@H]1N(CCN(C1)C1=NC=CC=C1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C20H21N5O3
reactant | Tf2O | 4.22 mmol, 1.19 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-methyl 3-(2-methyl-4-(pyridin-2-yl)piperazin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 0.9 g, 83.4% | C[C@@H]1N(CCN(C1)C1=NC=CC=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C21H20F3N5O5S
